data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:3]1([C:8](=[O:16])[O:26][CH3:11])[CH2:12][CH2:22][CH2:18][N:24]1[C:19]1=[CH:14][CH2:7][CH2:23][CH2:15][CH2:9]1.[c:1]1([N+:5](=[O:21])[O-:25])[s:6][cH:2][c:10]([N+:4](=[O:13])[O-:17])[cH:20]1>>[C:1]1([N+:5](=[O:21])[O-:25])=[CH:20][C:10](=[N+:4]([O-:13])[O-:17])[CH:2]([CH:14]2[CH2:7][CH2:23][CH2:15][CH2:9][C:19]2=[N+:24]2[CH:3]([C:8](=[O:16])[O:26][CH3:11])[CH2:12][CH2:22][CH2:18]2)[S:6]1", "epd": [["LP-/Pi+", [24], [19, 24]], ["Pi-/Sigma+", [14, 19], [14, 2]], ["Pi-/Pi+", [2, 10], [10, 4]], ["Pi-/LP+", [4, 13], [13]]]}
{"reaction_name": "Oxonium or ammonium neutralization", "rsmi": "[Cl-:5].[NH2+:2]([CH3:4])[H:6].[O-:1][CH3:3]>>[Cl-:5].[NH2:2][CH3:4].[O:1]([CH3:3])[H:6]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [2, 6], [2]]]}
{"reaction_name": "Sommelet–Hauser rearrangement of ammonium ylides", "rsmi": "[cH:1]1[cH:6][cH:10][cH:7][c:2]([H:12])[c:8]1[CH2:9][N+:11]([CH2-:3])([CH3:4])[CH3:5]>>[cH:1]1[cH:6][cH:10][cH:7][c:2]([CH2:3][H:12])[c:8]1[CH2:9][N:11]([CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [3], [2, 3]], ["Sigma-/LP+", [3, 11], [11]], ["Sigma-/Sigma+", [2, 12], [3, 12]]]}
{"reaction_name": "Sulfoxide-to-sulfone oxidation", "rsmi": "[O:2]([O:4][H:10])[C:9](=[O:3])[CH3:6].[S:1](=[O:5])([CH3:7])[CH3:8]>>[O:2]([C:9](=[O:3])[CH3:6])[H:10].[S:1](=[O:4])(=[O:5])([CH3:7])[CH3:8]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [2, 4], [2]], ["LP-/Sigma+", [2], [2, 10]], ["Sigma-/LP+", [4, 10], [4]], ["LP-/Pi+", [4], [1, 4]]]}
{"reaction_name": "[2,3]-Sulfonium ylide rearrangement", "rsmi": "[CH3:1][S+:4]([CH2:5][CH:3]=[CH2:2])[CH2-:6]>>[CH3:1][S:4][CH2:6][CH2:5][CH:3]=[CH2:2]", "epd": [["LP-/Sigma+", [6], [5, 6]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[Li+:20].[O:2]=[S:29](=[O:3])([N:26]([F:24])[S:28](=[O:4])(=[O:5])[c:35]1[cH:11][cH:30][cH:22][cH:33][cH:14]1)[c:36]1[cH:12][cH:31][cH:23][cH:32][cH:13]1.[c:1]1([CH3:34])[o:21][c:9]([B-:25]23[O:6][CH2:17][C:15]([CH3:10])([CH2:18][O:7]2)[CH2:19][O:8]3)[cH:16][cH:27]1>>[Li+:20].[O:2]=[S:29](=[O:3])([N-:26][S:28](=[O:4])(=[O:5])[c:35]1[cH:11][cH:30][cH:22][cH:33][cH:14]1)[c:36]1[cH:12][cH:31][cH:23][cH:32][cH:13]1.[O:6]1[CH2:17][C:15]2([CH3:10])[CH2:18][O:7][B:25]1[O:8][CH2:19]2.[c:1]1([CH3:34])[o:21][c:9]([F:24])[cH:16][cH:27]1", "epd": [["Sigma-/Sigma+", [9, 25], [9, 24]], ["Sigma-/LP+", [24, 26], [26]]]}
{"reaction_name": "Thioacetal desulfurization", "rsmi": "[CH3:1][CH:6]([S:9][CH3:7])[S:10][CH3:8].[H:2][H:3].[H:4][H:5]>>[CH3:1][CH:6]([H:2])[H:3].[H:4][S:9][CH3:7].[H:5][S:10][CH3:8]", "epd": [["Sigma-/Sigma+", [6, 9], [4, 9]], ["Sigma-/Sigma+", [2, 3], [2, 6]], ["Sigma-/Sigma+", [4, 5], [5, 10]], ["Sigma-/Sigma+", [6, 10], [3, 6]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:1]=[C:30]1[N:5]([CH3:26])[C:28](=[O:7])[N:6]([CH3:27])[C:31](=[O:2])[C:21]1=[CH:23][c:8]1[cH:37][cH:3][c:22]([O:17][CH3:13])[cH:4][cH:38]1.[cH:9]1[cH:14][c:33]([CH:11]=[C:39]2[CH:34]=[CH:19][C:29](=[N+:32]([O-:24])[O-:25])[CH:20]=[CH:35]2)[cH:15][cH:10][c:16]1[N+:36](=[O:12])[O-:18]>>[O-:1][c:30]1[n:5]([CH3:26])[c:28](=[O:7])[n:6]([CH3:27])[c:31](=[O:2])[c:21]1[CH:23]([c:8]1[cH:37][cH:3][c:22]([O:17][CH3:13])[cH:4][cH:38]1)[CH:11]([c:33]1[cH:14][cH:9][c:16]([N+:36](=[O:12])[O-:18])[cH:10][cH:15]1)[c:39]1[cH:34][cH:19][c:29]([N+:32](=[O:24])[O-:25])[cH:20][cH:35]1", "epd": [["LP-/Pi+", [24], [32, 24]], ["Pi-/Pi+", [29, 32], [19, 29]], ["Pi-/Pi+", [34, 19], [39, 34]], ["Pi-/Sigma+", [11, 39], [11, 23]], ["Pi-/Pi+", [23, 21], [21, 30]], ["Pi-/LP+", [30, 1], [1]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:2][cH:15][cH:23][cH+:12][cH:22][cH:14]1.[cH:3]1[cH:9][cH:4][c:17]([C:11](=[C:6]2[N:7]([CH3:20])[C:13]([CH3:19])=[C:24]([CH3:21])[S:16]2)[O:18][CH3:8])[cH:5][cH:10]1>>[CH:1]1=[CH:2][CH:15]=[CH:23][CH:12]([C:11]([c:6]2[n+:7]([CH3:20])[c:13]([CH3:19])[c:24]([CH3:21])[s:16]2)([c:17]2[cH:4][cH:9][cH:3][cH:10][cH:5]2)[O:18][CH3:8])[CH:22]=[CH:14]1", "epd": [["LP-/Pi+", [7], [6, 7]], ["Pi-/Sigma+", [11, 6], [11, 12]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:14]([n:6][o:19][n+:18]1[O-:2])[n:13][c:11]([O:15][CH3:12])[n:8][cH:16]2.[cH:3]1[cH:5][c:7]2[c:21]([cH:10][cH:22]1)[CH:20]=[CH:4][CH:17]2[Li:9]>>[Li+:9].[c:1]12[c:14]([n:6][o:19][n+:18]1[O-:2])[N:13]=[C:11]([O:15][CH3:12])[N-:8][CH:16]2[CH:17]1[CH:4]=[CH:20][c:21]2[c:7]1[cH:5][cH:3][cH:22][cH:10]2", "epd": [["Sigma-/Sigma+", [17, 9], [17, 16]], ["Pi-/LP+", [16, 8], [8]]]}
{"reaction_name": "Grob fragmentation", "rsmi": "[CH2:1]([OH:2])[CH:4]([O-:5])[CH2:7][CH2:6][Cl:3]>>[CH2:1]([OH:2])[CH:4]=[O:5].[CH2:6]=[CH2:7].[Cl-:3]", "epd": [["Sigma-/Pi+", [4, 7], [6, 7]], ["Sigma-/LP+", [3, 6], [3]], ["LP-/Pi+", [5], [4, 5]]]}
